US07842758B2
4-(Trimethylsilyl)ethynylbenzo[c][1,2,5]thiadiazole (9)
4-Bromobenzo[c][1,2,5]thiadiazole (0.378 g, 1.76×10−3 mol), Pd(PPh3)4 (0.125 g, 1.68×10−4 mol), CuI (0.014 g, 7.4×10−5 mol), THF (20 ml), diisopropylamine (1.00 ml), and (trimethylsilyl)acetylene (1.00 ml, 7.1×10−3 mol) were added to a 50-ml Schlenk tube. N2 was bubbled through the mixture for 5 min, following which the reaction was stirred at 45° C. for 20 h. After cooling, the solvent was evaporated and the residue was chromatographed on silica gel using 1:1 hexanes:CHCl3 as the eluent. Yield=0.398 g (97.3% based on 0.378 g of 4-bromobenzothiadiazole). 1H NMR (500 MHz, CDCl3): δ 7.88 (m, 1H, Ph-H), 7.67 (m, 1H, Ph-H), 7.45 (m, 1H, Ph-H), 0.33 (s, 9H, —Si—CH3).

reactant | 4-Bromobenzo[c][1,2,5]thiadiazole | 1.76×10−3 mol, 0.378 g | BrC1=CC=CC2=NSN=C21 | C6H3BrN2S
reactant | diisopropylamine | 1.00 ml | C(C)(C)NC(C)C | C6H15N
reactant | (trimethylsilyl)acetylene | 7.1×10−3 mol, 1.00 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)4 | 1.68×10−4 mol, 0.125 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 7.4×10−5 mol, 0.014 g | [Cu]I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(Trimethylsilyl)ethynylbenzo[c][1,2,5]thiadiazole | C[Si](C)(C)C#CC1=CC=CC2=NSN=C21 | C11H12N2SSi
